US06043242
17. [2-(1H-Benzimidazol-2-ylsulfanylmethyl)-3-chloro-pyridin-4-yl]methyl-[2-(3-nitroimidazo[1,2-b]pyridazin-6-ylsulfanyl)ethyl]amine
0.44 g (1.0 mmol) of [2-(1H-benzimidazol-2-ylsulfanylmethyl)-3-chloropyridin-4-yl]-(2-chloroethyl)methyl-amine, 0.24 g (1.2 mmol) of 3-nitroimidazo[1,2-b]pyridazine-6-thiol and 0.52 ml (3.5 mmol) of DBU are reacted in 10 ml of dimethylformamide by the procedure described in Example 16. After crystallization from diisopropyl ether, 0.35 g (66%) of the title compound is obtained as a pale beige solid. M.p. 184-185° C.

reactant | [2-(1H-benzimidazol-2-ylsulfanylmethyl)-3-chloropyridin-4-yl]-(2-chloroethyl)methyl-amine | 1.0 mmol, 0.44 g | N1C(=NC2=C1C=CC=C2)SCC2=NC=CC(=C2Cl)N(C)CCCl | C16H16Cl2N4S
reactant | 3-nitroimidazo[1,2-b]pyridazine-6-thiol | 1.2 mmol, 0.24 g | [N+](=O)([O-])C1=CN=C2N1N=C(C=C2)S | C6H4N4O2S
reactant | DBU | 3.5 mmol, 0.52 ml | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | [2-(1H-Benzimidazol-2-ylsulfanylmethyl)-3-chloro-pyridin-4-yl]methyl-[2-(3-nitroimidazo[1,2-b]pyridazin-6-ylsulfanyl)ethyl]amine | 0.35 g, 66% | N1C(=NC2=C1C=CC=C2)SCC2=NC=CC(=C2Cl)CNCCSC=2C=CC=1N(N2)C(=CN1)[N+](=O)[O-] | C22H19ClN8O2S2
